US04377580
A mixture of 4,6-diaminoquinazoline hydrochloride (10 g) and tripropylamine (17.6 g) in dry pyridine (100 ml) was stirred in an ice-bath for 1 hour. To the mixture was added dropwise during 40 minutes isobutyric anhydride (8.85 g). The mixture was stirred for 1 hour at 5° C. Crushed ice was added to the reaction mixture. The mixture was stirred for 5 minutes and concentrated under reduced pressure to give a residue which was dissolved in water. After insoluble materials were removed by filtration, the filtrate was adjusted to pH 8-9 with aqueous sodium bicarbonate solution and concentrated under reduced pressure to give a residue which was dissolved in a mixture of chloroform and methanol. The solution was filtered and concentrated under reduced pressure to give a crystalline residue which was suspended in ethyl acetate. The suspension was filtered to give 4-amino-6-(2-methylpropionamido)-quinazoline (5.05 g).

reactant | 4,6-diaminoquinazoline hydrochloride | 10 g | Cl.NC1=NC=NC2=CC=C(C=C12)N
reactant | tripropylamine | 17.6 g | C(CC)N(CCC)CCC | C9H21N
reactant | isobutyric anhydride | 8.85 g | C(C(C)C)(=O)OC(C(C)C)=O | C8H14O3
solvent | pyridine | 100 ml | N1=CC=CC=C1 | C5H5N
solvent | water | O | H2O
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
solvent | methanol | CO | CH4O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4-amino-6-(2-methylpropionamido)-quinazoline | 5.05 g | NC1=NC=NC2=CC=C(C=C12)NC(C(C)C)=O | C12H14N4O
